US07429665B2
4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting 1-(4-Benzyloxy-phenyl)-2-pyridin-4-yl-ethanone provided the title compound. MS: (M+H m/z=342.2).

reactant | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | 1-(4-Benzyloxy-phenyl)-2-pyridin-4-yl-ethanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C20H17NO2
product | 4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C22H19N3O
